### PR TITLE
[Merged by Bors] - feat(PowerSeries): add barebones Log.lean

### PR DESCRIPTION
**Pull request by rwst**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
+/-
+Copyright (c) 2026 Mathlib contributors. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Mathlib contributors
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]: Is there a reason you are not using you name?

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+
+@[expose] public section
+
+namespace PowerSeries
+
+variable (A : Type*) [CommRing A] [Algebra ℚ A]
+
+/-- Power series for `log(1 + X) = X - X²/2 + X³/3 - ⋯`. -/
+def log : PowerSeries A :=
+  mk fun n => if n = 0 then 0 else algebraMap ℚ A ((-1 : ℚ) ^ (n + 1) / n)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]:
```suggestion
  mk fun n ↦ if n = 0 then 0 else algebraMap ℚ A ((-1 : ℚ) ^ (n + 1) / n)
```

**Review by riccardobrasca — COMMENTED** [review]
Can you please add the very basic lemma from https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PowerSeries/Exp.html? Like the constant coefficient. Thanks!

File: Mathlib/RingTheory/PowerSeries/Log.lean (hunk 1 above)
Comment (rwst) [reply Mathlib/RingTheory/PowerSeries/Log.lean]: Previously I did in another file, but it was changed later by someone else. It's not important right now, I can change it in the next commit.

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+    map f (log A) = log A' := by
+  ext n; simp only [coeff_map, coeff_log]; split_ifs <;> simp [RingHom.map_rat_algebraMap]
+
+theorem coeff_one_log : coeff 1 (log A) = 1 := by simp
+
+theorem order_log [Nontrivial A] : (log A).order = 1 :=
+  order_eq_nat.mpr ⟨by simp, fun i hi => by simp [Nat.lt_one_iff.mp hi]⟩
+
+/-- The derivative of `log(1+X)` is the geometric series `1 - X + X² - X³ + ⋯ = 1/(1+X)`. -/
+theorem deriv_log : d⁄dX A (log A) = mk fun n => algebraMap ℚ A ((-1 : ℚ) ^ n) := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]:
```suggestion
theorem deriv_log : d⁄dX A (log A) = mk fun n ↦ algebraMap ℚ A ((-1 : ℚ) ^ n) := by
```

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+theorem HasSubst.exp_sub_one : HasSubst (exp A - 1) :=
+  HasSubst.of_constantCoeff_zero' (by simp [constantCoeff_exp])
+
+/-- `logOf f` is `log(f)` when `constantCoeff f = 1`, defined as `log(1+X)` substituted at `f-1`. -/
+noncomputable def logOf (f : A⟦X⟧) : A⟦X⟧ :=
+  (log A).subst (f - 1)
+
+theorem constantCoeff_logOf (f : A⟦X⟧) (hf : constantCoeff f = 1) :
+    constantCoeff (logOf f) = 0 := by
+  unfold logOf
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]: Please add a `rfl` lemma that we can rewrite instead of unfolding here.

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+  have h : constantCoeff (f - 1) = 0 := by simp only [map_sub, hf, map_one, sub_self]
+  exact constantCoeff_subst_eq_zero h (log A) constantCoeff_log
+
+variable (A) in
+@[simp]
+theorem logOf_one_add_X : logOf (1 + X : A⟦X⟧) = log A := by
+  simp only [logOf, add_sub_cancel_left]
+  rw [← map_algebraMap_eq_subst_X (S := A), Algebra.algebraMap_self, map_id]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]: Can we avoid the `rfl` (adding an API lemma)?

Comment (rwst) [reply Mathlib/RingTheory/PowerSeries/Log.lean]: Opus added `subst_self` to `Substitution.lean`. Agree?

File: Mathlib/RingTheory/PowerSeries/Substitution.lean [hunk 6]
```diff
@@ -274,6 +274,11 @@ theorem map_algebraMap_eq_subst_X (f : R⟦X⟧) :
     map (algebraMap R S) f = subst X f :=
   MvPowerSeries.map_algebraMap_eq_subst_X f
 
+@[simp]
+theorem subst_self (f : R⟦X⟧) : f.subst (X : R⟦X⟧) = f := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Substitution.lean]:
```suggestion
theorem X_subst (f : R⟦X⟧) : f.subst (X : R⟦X⟧) = f := by
```
Seems more discoverable.

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 7]
```diff
@@ -0,0 +1,101 @@
...
+
+@[simp]
+theorem map_log {A' : Type*} [CommRing A'] [Algebra ℚ A'] (f : A →+* A') :
+    map f (log A) = log A' := by
+  ext n; simp only [coeff_map, coeff_log]; split_ifs <;> simp [RingHom.map_rat_algebraMap]
+
+theorem coeff_one_log : coeff 1 (log A) = 1 := by simp
+
+theorem order_log [Nontrivial A] : (log A).order = 1 :=
+  order_eq_nat.mpr ⟨by simp, fun i hi => by simp [Nat.lt_one_iff.mp hi]⟩
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]:
```suggestion
  order_eq_nat.mpr ⟨by simp, fun i hi ↦ by simp [Nat.lt_one_iff.mp hi]⟩
```

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 8]
```diff
@@ -0,0 +1,101 @@
...
+
+/-- The derivative of `log(1+X)` is the geometric series `1 - X + X² - X³ + ⋯ = 1/(1+X)`. -/
+theorem deriv_log : d⁄dX A (log A) = mk fun n ↦ algebraMap ℚ A ((-1 : ℚ) ^ n) := by
+  ext n
+  simp only [coeff_derivative, coeff_log, coeff_mk, Nat.add_eq_zero_iff, one_ne_zero,
+    and_false, ↓reduceIte, show (↑n + 1 : A) = algebraMap ℚ A (n + 1) from by simp, ← map_mul]
+  congr 1; push_cast; field_simp; ring
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]:
```suggestion
  have : (n + 1) = algebraMap ℚ A (n + 1) := by simp
  rw [coeff_derivative, coeff_log, coeff_mk]
  grind
```

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 9]
```diff
@@ -0,0 +1,101 @@
...
+
+/-! ## Substitution -/
+
+theorem HasSubst.log : HasSubst (log A) :=
+  HasSubst.of_constantCoeff_zero' constantCoeff_log
+
+theorem HasSubst.exp_sub_one : HasSubst (exp A - 1) :=
+  HasSubst.of_constantCoeff_zero' (by simp [constantCoeff_exp])
+
+/-- `logOf f` is `log(f)` when `constantCoeff f = 1`, defined as `log(1+X)` substituted at `f-1`. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]: I don't understand this docstring. `constantCoeff` is not mentioned in the definition.

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 10]
```diff
@@ -0,0 +1,101 @@
...
+noncomputable def logOf (f : A⟦X⟧) : A⟦X⟧ :=
+  (log A).subst (f - 1)
+
+theorem logOf_eq (f : A⟦X⟧) : logOf f = (log A).subst (f - 1) := rfl
+
+theorem constantCoeff_logOf (f : A⟦X⟧) (hf : constantCoeff f = 1) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]:
```suggestion
theorem constantCoeff_logOf {f : A⟦X⟧} (hf : constantCoeff f = 1) :
```

File: Mathlib/RingTheory/PowerSeries/Log.lean [hunk 11]
```diff
@@ -0,0 +1,101 @@
...
+    constantCoeff (logOf f) = 0 := by
+  rw [logOf_eq]
+  have h : MvPowerSeries.constantCoeff (f - 1 : A⟦X⟧) = 0 := by
+    rw [show MvPowerSeries.constantCoeff (f - 1) = constantCoeff f - 1 from rfl, hf, sub_self]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Log.lean]:
```suggestion
    rw [map_sub, map_one, ← PowerSeries.constantCoeff, hf, sub_self]
```
Even better, you could add a `rfl` lemma saying that `PowerSeries.constantCoeff f = MvPowerSeries.constantCoeff f`.

**Review by riccardobrasca — COMMENTED** [review]
Thank for the PR, it is almost ready to go.

File: Mathlib/RingTheory/PowerSeries/Log.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/Log.lean]: I’ve just noticed that `Exp.lean` has the same header, so I’m a little confused. `Exp.lean` was added by you in #34256, but its contents were already essentially present in `WellKnown.lean`, right? So I have two comments:

* First, if that is correct, then @yury-harmonic should probably be credited with the copyright and authorship of `Exp.lean`. You may of course add yourself to the list of authors, but please don’t remove anyone.
* Second, where does the material in this PR come from? Is it original to you?

Comment (rwst) [reply Mathlib/RingTheory/PowerSeries/Log.lean]: - Actually, git blame shows the lemmas that I moved to `Exp` are all by Yuma Mizuno, so I should add his name (with mine).
- The material here is in part by me (pre-AI) and part by the me+Opus 4.6 collaboration
- Also, I contributed to `Substitution`, `Derivative` (collab) and `Basic` (pre-AI). I think the latter two should include my name.

Agree?

Comment (riccardobrasca) [reply Mathlib/RingTheory/PowerSeries/Log.lean]: Yes, adding names to the list of authors is completely standard, we don't have precise rules about it
